US04687861
Production of 1-morpholino-2-cyano-3-(2',3'-dichlorophenyl)-4-nitro-but-1-ene
5.0 g of 1-(2',3'-dichlorophenyl)-2-nitroethylene, 3.18 g of 3-morpholinoacrylonitrile and 30 ml of tetrahydrofuran (abs.) are refluxed for 24 hours, and the reaction solution is subsequently concentrated by evaporation. The resulting residue, dissolved in toluene/ethyl acetate (2:1 V/V), is chromatographed through silica gel, and from the eluate is thus obtained the finished product, m.p. 74°-77° C. IR (CHCl3) in cm-1 ; 2200 (CN), 1630 (C=C), 1560 (NO2). NMR (CDCl3) in ppm: 4.5 (m, 4H); 4.7 (m, 4H); 4.8 (ABX, 3H); 6.60 (s, 1H); 7.2-7.5 (m, 3H).

reactant | 1-(2',3'-dichlorophenyl)-2-nitroethylene | 5.0 g | ClC1=C(C=CC=C1Cl)C=C[N+](=O)[O-] | C8H5Cl2NO2
reactant | 3-morpholinoacrylonitrile | 3.18 g | O1CCN(CC1)C=CC#N | C7H10N2O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-morpholino-2-cyano-3-(2',3'-dichlorophenyl)-4-nitro-but-1-ene | O1CCN(CC1)C=C(C(C[N+](=O)[O-])C1=C(C(=CC=C1)Cl)Cl)C#N | C15H15Cl2N3O3
